US06410550B1
C) 10-Benzyl-3-iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene
5-Iodo-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol (8.33 g, 27.6 mmol) and Et3NBnCl (10 mg) were vigorously stirred in dichloroethane (25 mL) and H2O (75 mL) then treated with sodium periodate (6.17 g, 29.0 mmol). After 1.5 hours, the layers were separated and the aqueous layer extracted with DCE (2×40 mL). The combined organic layer was washed with H2O (4×30 mL) until no reaction to starch iodide paper was observed, then with saturated aqueous NaCl solution (30 mL). The organic layer was dried through a cotton plug and treated with benzyl amine (3.16 mL, 29.0 mmol) and stirred for 2 minutes then transferred to an addition funnel. This solution was added over ˜10 minutes to a vigorously stirred cooled (0° C.) mixture of NaHB(OAc)3 (18.72 g, 88.0 mmol) in DCE (150 mL). After addition was complete, the mixture was stirred without cooling for 2 hours. The mixture was quenched with saturated aqueous Na2CO3 solution (100 mL) and stirred for 1 hour, then the layers were separated and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic layer was washed with saturated aqueous NaCl solution (50 mL), dried through a cotton plug and concentrated. Chromatography on Silica gel provided an oil (6.3 g, 61%). (TLC 5% EtOAc/hexanes Rf 0.10). 1H NMR (400 MHz, CDCl3) δ7.61 (d, J=8.0 Hz, 1H), 7.28-7.22 (m, 3H), 7.13 (d, J=8.0 Hz, 1H), 6.98-6.94 (m, 3H), 3.58 (AB dd, J=14.2 Hz, 2H), 3.26 (br s, 1H), 3.21 (br s, 1H), 3.04 (br d, J=10.2 Hz, 1H), 2.83 (br d, J=10.2 Hz, 1H), 2.47 (d, J=10.0 Hz, 1H), 2.39 (d, J=10.0 Hz, 1H), 2.34 (m, 1H), 1.72 (d, J=10.5 Hz, 1H). APCl MS m/e 376.0 [(M+1)+].

reactant | 5-Iodo-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol | 27.6 mmol, 8.33 g | IC1=C2C3C(C(C(C2=CC=C1)C3)O)O | C11H11IO2
reactant | H2O | 75 mL | O | H2O
reactant | sodium periodate | 29.0 mmol, 6.17 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | benzyl amine | 29.0 mmol, 3.16 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
solvent | DCE | 150 mL | ClCCCl | C2H4Cl2
product | 10-Benzyl-3-iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 6.3 g, 61% | C(C1=CC=CC=C1)N1CC2C=3C=CC=C(C3C(C1)C2)I | C18H18IN
